US09403839B2
To methyl 3-(hydroxymethyl)-4-isopropoxy-benzoate (180 mg, 0.80 mmol) and 1,4-dioxane (1.895 mL) was added sodium hydroxide (2.1 mL of 1.0 M, 2.1 mmol) and the mixture was heated at 80° C. for 50 minutes. The solvent was evaporated under reduced pressure. The crude mixture was dissolved in water (10 mL) and was washed with ethyl acetate (3×10 mL) which was discarded. The aqueous layer was acidified with hydrochloric acid. The aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organics were dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure to yield 3-(hydroxymethyl)-4-isopropoxy-benzoic acid (89%) as a white solid. ESI-MS m/z calc. 210.2, found 211.3 (M+1)+; Retention time: 1.01 minutes (3 min run).

reactant | methyl 3-(hydroxymethyl)-4-isopropoxy-benzoate | 0.80 mmol, 180 mg | OCC=1C=C(C(=O)OC)C=CC1OC(C)C | C12H16O4
reactant | sodium hydroxide | 2.1 mmol, 1.0 M, 2.1 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 1.895 mL | O1CCOCC1 | C4H8O2
product | 3-(hydroxymethyl)-4-isopropoxy-benzoic acid | 89% | OCC=1C=C(C(=O)O)C=CC1OC(C)C | C11H14O4
